US06933311B2
N-(3,4-dimethylbenzyl)-N′-(3-methyl-5-isoquinolinyl)urea
3,4-Dimethylbenzylamine (0.3 mL, 2.1 mmol) in toluene (11 mL) was added carefully to a 20% w/v solution of phosgene in toluene (4.5 mL). The mixture was refluxed overnight and was then concentrated in vacuo. The residue was then taken up in toluene (10 mL) and treated with DIEA (1.5 mL, 8.63 mmol) and 5-amino-3-methylisoquinoline (155 mg, 1.08 mmol). The reaction mixture was stirred at 80° for 2 h and was then cooled to room temperature. The precipitated solid was collected by filtration and was chromatographed on silica gel (97:3 CH2Cl2—CH3OH to 9:1 CH2Cl2—CH3OH, eluant gradient) to afford the desired product, A-473191. Treatment of this solid with methanolic HCl yielded the corresponding hydrochloride salt. 1H NMR (300 MHz, DMSO-d6) δ 9.16 (s, 1H), 8.59 (s, 1H), 8.24 (d, 1H, J=7.8 Hz), 7.74 (s, 1H), 7.68 (d, 1H, J=8.2 Hz), 7.50 (t, 1H, J=7.9 Hz), 7.08-7.12 (m, 3H), 6.95 (m, 1H), 4.28 (d, 2H, 5.8 Hz), 2.64 (s, 3H), 2.22 (s, 3H), 2.20 (s, 3H); MS (ESI+) m/z 320 (M+H).

reactant | 3,4-Dimethylbenzylamine | 2.1 mmol, 0.3 mL | CC=1C=C(CN)C=CC1C | C9H13N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | DIEA | 8.63 mmol, 1.5 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 5-amino-3-methylisoquinoline | 1.08 mmol, 155 mg | NC1=C2C=C(N=CC2=CC=C1)C | C10H10N2
solvent | toluene | 11 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 4.5 mL | C1(=CC=CC=C1)C | C7H8
product | N-(3,4-dimethylbenzyl)-N′-(3-methyl-5-isoquinolinyl)urea | CC=1C=C(CNC(=O)NC2=C3C=C(N=CC3=CC=C2)C)C=CC1C | C20H21N3O
